US07507739B2
A mixture of ethyl 3-cycloheptyl-3-oxo-2-(2,4,6-trifluorophenyl)propanoate (342 mg, 1.0 mmol), 3-amino-1,2,4-triazole (84 mg, 1.0 mmol), and tributylamine (185 mg, 1.0 mmol) is stirred under nitrogen atmosphere at 160° C. for 2.5 h and cooled to room temperature. The mixture is dissolved in ethyl acetate and the organic layer is washed with 1.0 N hydrochloric acid and saturated sodium chloride, dried over magnesium sulfate, and concentrated to a solid. The solid thus obtained is washed with hexanes to give crude 7-cycloheptyl-6-(2,4,6-trifluorophenyl)[1,2,4]triazolo[1,5-a]pyrimidin-5-ol as a light tan solid (225 mg). MS: m/z 363.2 (M+H).

reactant | ethyl 3-cycloheptyl-3-oxo-2-(2,4,6-trifluorophenyl)propanoate | 1.0 mmol, 342 mg | C1(CCCCCC1)C(C(C(=O)OCC)C1=C(C=C(C=C1F)F)F)=O | C18H21F3O3
reactant | 3-amino-1,2,4-triazole | 1.0 mmol, 84 mg | NC1=NNC=N1 | C2H4N4
reactant | tributylamine | 1.0 mmol, 185 mg | C(CCC)N(CCCC)CCCC | C12H27N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-cycloheptyl-6-(2,4,6-trifluorophenyl)[1,2,4]triazolo[1,5-a]pyrimidin-5-ol | 225 mg | C1(CCCCCC1)C1=C(C(=NC=2N1N=CN2)O)C2=C(C=C(C=C2F)F)F | C18H17F3N4O
